US08426628B2
A reaction of n-butylamine with CPTMO with a ratio of 3:1 consumes 1 mol of n-butylamine. 2 moles of n-butylamine can be removed again by distillation without any addition. This is because the reaction forms 1 mol of HCl, and, as a result of the distillation, 1 mol of n-butylaminopropylsilane hydrochloride is present at the end of the reaction.

reactant | n-butylamine | C(CCC)N | C4H11N
reactant | CPTMO | CO[Si](CCCCl)(OC)OC | C6H15ClO3Si
reactant | n-butylamine | 1 mol | C(CCC)N | C4H11N
reactant | n-butylamine | 2 moles | C(CCC)N | C4H11N
reactant | HCl | 1 mol | Cl | ClH
product | n-butylaminopropylsilane hydrochloride | 1 mol | Cl.C(CCC)NCCC[SiH3] | InChI=1S/C7H19NSi.ClH/c1-2-3-5-8-6-4-7-9;/h8H,2-7H2,1,9H3;1H
